US07456164B2
To a stirred solution of ({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclo-hexyl}methyl)amine (0.60 g, 1.90 mmol) and N,N-diisopropylethylamine (330 μL, 1.90 mmol) in dry dichloromethane (6 mL) at 0° C. was added dropwise a solution of di-tert-butyldicarbonate (455 mg, 2.09 mmol) in dry dichloromethane (4 mL). The reaction was allowed to warm to ambient temperature and stirred for a further 2 hours. The reaction mixture was concentrated in vacuo, partitioned between NaHCO3 (20 mL) and dichloromethane (20 mL) and extracted with a further 20 mL of dichloromethane. The organic layers were combined, dried over Na2SO4 and concentrated under reduced pressure to provide the crude product. The compound was purified by column chromatography on silica gel, eluting with DCM/MeOH/NH3 (95:5:0.5) to give tert-butyl ({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}methyl)-carbamate as a clear oil (642 mg, 81%). 1H NMR complicated by the presence of rotamers. 1H NMR (400 MHz, CDCl3) δ 7.24 (d, 2H), 6.90 (d, 2H), 4.12 (brs, 1H), 4.02 (t, 2H), 3.24-3.06 (m, 2H), 2.66 (t, 2H) 2.56-2.46 (m, 4H), 2.08-1.94 (m, 4H), 1.84-1.72 (m, 4H), 1.62-1.54 (m, 4H), 1.48-1.28 (m, 13H) LCMS (ESI+) 417 (M+H)+ 439 (M+Na)+.

reactant | ({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclo-hexyl}methyl)amine | 1.90 mmol, 0.60 g | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCCCC1)CN | C20H32N2O
reactant | N,N-diisopropylethylamine | 1.90 mmol, 330 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyldicarbonate | 2.09 mmol, 455 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | tert-butyl ({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}methyl)-carbamate | 642 mg, 81% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCCCC1)CNC(OC(C)(C)C)=O | C25H40N2O3
